US06420385B1
6-(4-Fluorophenyl)-2-methyl-1-(3-phenylpropyl)-7-pyridin-4-yl-1H-imidazo (1,2-a)pyrimidin-5-one
A neat mixture of 3-(3-trimethylsilyl-2-propynyl)-5-(4-fluorophenyl)-2-methylthio-6-(4-pyridyl)-4(3H)-pyrimidinone (50 mg, 0.12 mmol) and 3-phenyl-1-propylamine (67 mg, 0.47 mmol) was warmed to 190° C. for 17 h. After cooling to 23° C., the reaction mixture was applied directly to purification via flash chromatography (step gradient 1% MeOH:CHCl3 then 2%, then 3%;) to afford the desired product: MS (m/z) 439 (M+H)+.

reactant | 3-(3-trimethylsilyl-2-propynyl)-5-(4-fluorophenyl)-2-methylthio-6-(4-pyridyl)-4(3H)-pyrimidinone | 0.12 mmol, 50 mg | C[Si](C#CCN1C(=NC(=C(C1=O)C1=CC=C(C=C1)F)C1=CC=NC=C1)SC)(C)C | C22H22FN3OSSi
reactant | 3-phenyl-1-propylamine | 0.47 mmol, 67 mg | C1(=CC=CC=C1)CCCN | C9H13N
product | 6-(4-Fluorophenyl)-2-methyl-1-(3-phenylpropyl)-7-pyridin-4-yl-1H-imidazo (1,2-a)pyrimidin-5-one | FC1=CC=C(C=C1)C1=C(N=C2N(C1=O)C=C(N2CCCC2=CC=CC=C2)C)C2=CC=NC=C2 | C27H23FN4O
